US03937837
7-Hydroxy-4-oxo-2-(trifluoromethyl)-4H-1-benzopyran-3-carbonitrile.
A slurry of 8.85 g of 2,4-dihydroxybenzoyl acetonitrile in 40 ml of trifluoroacetic anhydride was cooled to 0°C. and treated dropwise with 7 ml of pyridine. The resulting yellow solution was set aside at room temperature for 6 days. The reaction mixture was concentrated to a paste, water and ice were added, and the solid product filtered. Recrystallization from acetonitrile gave the analytical sample, mp 255°-257° C.

reactant | 2,4-dihydroxybenzoyl acetonitrile | 8.85 g | OC1=C(C(=O)CC#N)C=CC(=C1)O | C9H7NO3
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 40 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 7-Hydroxy-4-oxo-2-(trifluoromethyl)-4H-1-benzopyran-3-carbonitrile | OC1=CC2=C(C(C(=C(O2)C(F)(F)F)C#N)=O)C=C1 | C11H4F3NO3
